US08383642B2
Benzyl 1-methylspiro[indoline-3,4′-piperidine]-1′-carboxylate
To a 0° C. solution of benzyl spiro[indoline-3,4′-piperidine]-1′-carboxylate (1.15 g, 3.56 mmol), formaldehyde (37% aqueous solution, 1.44 mL, 17.83 mmol) and acetic acid (1.02 mL, 17.83 mmol) in methanol (25 mL) is added sodium cyanoborohydride (0.67 g, 10.68 mmol). The reaction mixture is allowed to warm to room temperature overnight. The pH of the mixture is adjusted to approximately 8 with 10% NaHCO3 solution and extracted with EtOAc (3×50 mL). The combined extracts are washed with water (50 mL) and brine (50 mL), dried, filtered, and evaporated to dryness. The crude material is purified by silica gel chromatography, eluting with hexane:ethyl acetate (85:15) to give the title compound as an off-white solid (0.9 g, 75%). ESI/MS m/z 337.2 (M+H)+.

reactant | benzyl spiro[indoline-3,4′-piperidine]-1′-carboxylate | 3.56 mmol, 1.15 g | N1(CCC2(CC1)CNC1=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C20H22N2O2
reactant | formaldehyde | 17.83 mmol, 1.44 mL | C=O | CH2O
reactant | acetic acid | 17.83 mmol, 1.02 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 10.68 mmol, 0.67 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | Benzyl 1-methylspiro[indoline-3,4′-piperidine]-1′-carboxylate | 0.9 g, 75% | CN1CC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)C2=CC=CC=C12 | C21H24N2O2
